US08895761B2
To a solution of 4-(3-ethyl-4′-fluoro-biphenyl-4-yl)-2,2,6-trimethylpyran-3,5-dione (0.125 g, 0.35 mmol) in dichloromethane (5 ml) is added triethylamine (0.2 ml, 1.43 mmol) and the reaction mixture is cooled to 0° C. Pivaloyl chloride (0.2 ml, 1.63 mmol) is added slowly at 0° C. and the mixture is stirred at 0° C. for 5 hours. The reaction mixture is diluted with water and extracted with dichloromethane (3×25 ml). The organic extracts are combined, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to afford 2,2-dimethyl propionic acid 4-(3-ethyl-4′-fluorobiphenyl-4-yl)-2,2,6-trimethyl-5-oxo-5,6-dihydro-2H pyran-3-yl ester (130 mg) as a white solid.

reactant | 4-(3-ethyl-4′-fluoro-biphenyl-4-yl)-2,2,6-trimethylpyran-3,5-dione | 0.35 mmol, 0.125 g | C(C)C=1C=C(C=CC1C1C(C(OC(C1=O)C)(C)C)=O)C1=CC=C(C=C1)F | C22H23FO3
reactant | triethylamine | 1.43 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | 1.63 mmol, 0.2 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2,2-dimethyl propionic acid 4-(3-ethyl-4′-fluorobiphenyl-4-yl)-2,2,6-trimethyl-5-oxo-5,6-dihydro-2H pyran-3-yl ester | 130 mg | C(C)C=1C=C(C=CC1C1=C(C(OC(C1=O)C)(C)C)OC(C(C)(C)C)=O)C1=CC=C(C=C1)F | C27H31FO4
